US04822814
Preparation of isopropyl 1,3-dithiol-2-ylidenemethylsulfonylacetate (Compound No. 3) [by Process (c)]
To a mixture of 18 g of isopropyl methylsulfonylacetate, 7.6 g of carbon disulfide and 200 ml of dimethylformamide, 22.4 g of potassium hydroxide was added under ice-cooling. The resultant mixture was stirred for 2 hours. Thereafter, 13.3 g of 1,1,2-trichloroethane was added, followed by stirring at 80° C. for 3 hours. After cooling the reaction mixture, chloroform and water were added and the resulting organic layer was separated. Upon removal of the solvent by distillation under reduced pressure, 24.1 g of the title compound was obtained as pale yellow crystals. Upon recrystallization from isopropanol, they turned to white crystals. Melting point: 127°-127.5° C.

reactant | isopropyl methylsulfonylacetate | 18 g | CS(=O)(=O)CC(=O)OC(C)C | C6H12O4S
reactant | carbon disulfide | 7.6 g | C(=S)=S | CS2
reactant | potassium hydroxide | 22.4 g | [OH-].[K+]
reactant | 1,1,2-trichloroethane | 13.3 g | ClC(CCl)Cl | C2H3Cl3
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | isopropyl 1,3-dithiol-2-ylidenemethylsulfonylacetate | 24.1 g | S1C(SC=C1)=CS(=O)(=O)CC(=O)OC(C)C | C9H12O4S3
